US07855297B2
To a solution of N-({1-[(4-fluorophenyl)methyl]pyrazol-4-yl}methyl)-5-hydroxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.55 g) in chloroform (10 mL) was added m-chloroperbenzoic acid (0.29 g), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was partitioned between water and chloroform. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography to give N-({1-[(4-fluorophenyl)methyl]pyrazol-4-yl}methyl)-5-hydroxy-N-(6-isopropyl-1-oxidopyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.13 g).

reactant | N-({1-[(4-fluorophenyl)methyl]pyrazol-4-yl}methyl)-5-hydroxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.55 g | FC1=CC=C(C=C1)CN1N=CC(=C1)CN(C(=O)C1CCCC2=C(C=CC=C12)O)C=1C=NC(=CC1)C(C)C | C30H31FN4O2
reactant | m-chloroperbenzoic acid | 0.29 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N-({1-[(4-fluorophenyl)methyl]pyrazol-4-yl}methyl)-5-hydroxy-N-(6-isopropyl-1-oxidopyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.13 g | Cl.FC1=CC=C(C=C1)CN1N=CC(=C1)CN(C(=O)C1CCCC2=C(C=CC=C12)O)C=1C=[N+](C(=CC1)C(C)C)[O-] | InChI=1S/C30H31FN4O3.ClH/c1-20(2)28-14-13-24(19-35(28)38)34(30(37)27-7-3-6-26-25(27)5-4-8-29(26)36)18-22-15-32-33(17-22)16-21-9-11-23(31)12-10-21;/h4-5,8-15,17,19-20,27,36H,3,6-7,16,18H2,1-2H3;1H
